US07547710B2
To a solution of ethyl (2E)-3-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylate (0.62 g, 1.3 mmol) in tetrahydrofuran (5 ml)-methanol (5 ml) was added 1N aqueous sodium hydroxide solution (5 ml), and the mixture was stirred at room temperature for 12 hrs. The mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was crystallized from diisopropyl ether to give (2E)-3-[3{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylic acid (0.41 g, yield 70%) as pale-yellow crystals.

reactant | ethyl (2E)-3-[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylate | 1.3 mmol, 0.62 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)/C=C/C(=O)OCC)CC(C)C | C31H38N2O4
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (2E)-3-[3{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]acrylic acid | 0.41 g, yield 70% | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)/C=C/C(=O)O)CC(C)C | C29H34N2O4
